US09062070B2
Step C: 4-ethyl-5-oxiran-2-yl-2-benzofuran-1(3H)-one
A solution of 4-ethyl-5-vinyl-2-benzofuran-1(3H)-one (1.1 g, 5.85 mmol) in 50 mL of DCM was slowly added mCPBA (3.60 g, 85% purity, 17.6 mmol) in 50 mL of DCM at 0° C. Warmed to room temperature, the mixture was stirred for 3 days. The mixture was washed with aqueous Na2SO3 until KI paper didn't change color. The organic layers were combined, washed with brine and concentrated. The residue was purified by column chromatography to give the title compound: 1H-NMR (400 MHz, CDCl3) δ ppm 7.75 (d, J=8.6 Hz, 1H), 7.41 (d, J=7.8 Hz, 1H), 5.30 (s, 2H), 4.11-4.13 (m, 1H), 3.23-3.25 (m, 1H), 2.75-2.82 (m, 2H), 2.70-2.72 (m, 1H), 1.27 (t, J=7.4 Hz, 3H).

reactant | 4-ethyl-5-vinyl-2-benzofuran-1(3H)-one | 5.85 mmol, 1.1 g | C(C)C1=C(C=CC=2C(OCC21)=O)C=C | C12H12O2
reactant | mCPBA | 17.6 mmol, 3.60 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-ethyl-5-oxiran-2-yl-2-benzofuran-1(3H)-one | C(C)C1=C(C=CC=2C(OCC21)=O)C2OC2 | C12H12O3
